US04065467
2'-isopropoxy-flavone-6-carbonyl-chloride (4.3 g) prepared according to Example 18, dissolved in anhydrous benzene (40 ml) was treated with N-hydroxyethyl-morpholine (3.2 g) and pyridine (1 ml) at room temperature for 24 hours. The benzene solution was washed with aqueous citric acid 40% with sodium bicarbonate and water, then evaporated to dryness. The residue, crystallized from acetone, gave morpholinoethyl-ester of 6-carboxy-2'-isopropoxy-flavone (3.6 g; m.p. 133°-135° C).

reactant | 2'-isopropoxy-flavone-6-carbonyl-chloride | 4.3 g | C(C)(C)OC1=C(C=2OC3=CC=C(C=C3C(C2)=O)C(=O)Cl)C=CC=C1 | C19H15ClO4
reactant | N-hydroxyethyl-morpholine | 3.2 g | OCCN1CCOCC1 | C6H13NO2
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
product | 6-carboxy-2'-isopropoxy-flavone | 3.6 g | C(=O)(O)C=1C=C2C(C=C(OC2=CC1)C1=C(C=CC=C1)OC(C)C)=O | C19H16O5
